US05403839
Methylpyrrolo[3,2,1-kl]phenoxazine-1-one-2-carboxylate
To a slurry of sodium hydride (0.39 g) in 20 ml of DMF (dimethylformamide) was added pyrrolo[3,2,1-kl]phenoxazine (1.4 g), prepared as described according to Preparation 2, and the resulting dark red solution was stirred at room temperature for 0.5 hours. To this solution, was added methyl chloroformate (0.95 g), dropwise, over a period of 10 minutes. The reaction mixture was stirred for 2 hours at room temperature, and it was then poured onto ice water (200 ml). The resulting mixture was then acidified to pH 2.0 with concentrated HCl and the mixture was then extracted with methylene chloride (200 ml). The extract was washed with water, dried and evaporated to dryness to yield the title compound as a solid (0.06 g; m.p. 124°-127° C.).

reactant | sodium hydride | 0.39 g | [H-].[Na+]
reactant | pyrrolo[3,2,1-kl]phenoxazine | 1.4 g | C1=CC=2C=CC=C3OC=4C=CC=CC4N1C23 | C14H9NO
reactant | methyl chloroformate | 0.95 g | ClC(=O)OC | C2H3ClO2
reactant | HCl | Cl | ClH
reactant | DMF | 20 ml | CN(C=O)C | C3H7NO
product | Methylpyrrolo[3,2,1-kl]phenoxazine-1-one-2-carboxylate | 0.06 g | COC(=O)C1C(N2C3=C1C=CC=C3OC=3C=CC=CC23)=O | C16H11NO4
